* H:\aa\Projekte\Mutteruhr\Hardware\Entwurf.asc
XU1 N003 MP_01 N001 MP_02 0 in N006 in LT8330
C1 in 0 4.7µ V=100 Irms=0 Rser=0.0043 Lser=1.3n mfg="Würth Elektronik" pn="885012214003 WCAP-CSGP 2220" type="X7R"
V1 N004 0 4.5
R2 in N004 1
C2 N006 0 1µ V=16 Irms=0 Rser=0.0237 Lser=872p mfg="Würth Elektronik" pn="885382207001 WCAP-CSST 0805" type="X7R"
L1 N001 in 1000n Ipk=1.8 Rser=0.064 Rpar=4276.7 Cpar=424f mfg="Würth Elektronik" pn="744045001 WE-LQ 1812"
D1 N001 reg PMEG6010AED
R3 reg N003 1000k
R4 N003 0 71k
C3 reg 0 10µ V=50 Irms=0 Rser=0.0051 Lser=500p mfg="Würth Elektronik" pn="885012210031 WCAP-CSGP 1812" type="X7R"
L2 0 N005 0.1
R5 N005 uhr 2k
V2 switch 0 PULSE(0 3 0 1u 1u 100m 200m)
XU2 switch N002 reg 0 opout OP292
C4 uhr opout 100µ
V3 N002 0 1
.model D D
.lib C:\users\christian\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1s
.options abstol=1e-3 reltol=0.02
.ic V(out)=18 V(in)=4.5
.lib ADI1.lib
.lib LT8330.sub
.backanno
.end
